US07323455B2
1-(2-amino-5-bromophenyl)-1-thien-3-ylethanol
Prepared from 1-(2-amino-5-bromo-phenyl)-ethanone and 3-thienyllithium generally according to the procedure described in example 1. 1H-NMR (DMSO-d6) δ 7.43 (dd, J=2.98, 4.98 Hz, 1H), 7.33 (dd, J=1.27, 2.94 Hz, 1H), 7.07 (dd, J=2.37, 8.47 Hz, 1H), 7.04 (d, J=2.33 Hz, 1H), 6.92 (dd, J=1.26, 4.98 Hz, 1H), 6.52 (d, J=8.38 Hz, 1H), 5.99 (bs, 1H), 5.32 (bs, 2H), 1.78 (s, 3H).

reactant | 1-(2-amino-5-bromo-phenyl)-ethanone | NC1=C(C=C(C=C1)Br)C(C)=O | C8H8BrNO
reactant | 3-thienyllithium | S1C=C(C=C1)[Li]
product | 1-(2-amino-5-bromophenyl)-1-thien-3-ylethanol | NC1=C(C=C(C=C1)Br)C(C)(O)C1=CSC=C1 | C12H12BrNOS
